US07459554B2
(3-Benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methanol 2,2,6,6-Tetramethylpiperidine (1775 μl, 1.2 eq.) was added dropwise over 5 min into the THF (20 ml) solution of n-BuLi (2.5 M in cyclohexane, 4.2 ml, 1.2 eq.), which was cooled in a dry ice/acetone bath. The reaction vessel was removed from the cooling bath and allowed to warm to 0° C. for 15 min, then cooled back to −78° C. and charged with chloropyrazine (780 μl, 8.733 mmol) dropwise over 5 min. The reaction was allowed to react for 15 min, and charged with a THF (10 ml) solution of 3-benzyloxy-4-methoxybenzaldehyde (2328 mg, 1.1 eq.) over 10 min. After 2 h, the reaction mixture was warmed to rt and aqueous HCl (1 N, 15 ml) was added. The mixture was extracted with CH2Cl2 (3×50 ml). The combined extracts were washed with water (50 ml) and brine (50 ml), and dried over MgSO4. After concentration in vacuo, a crude black oil (3.163 g) was obtained that was then purified by chromatography on silica gel (500 ml 10%, 30%, 40%, 50%, and 60% EtOAc/Hexane) and a brown oil of (3-benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methanol was obtained; 1H NMR (DMSO-d6, 400 MHz) δ 3.74 (s, 3H), 5.04 (s, 2H), 6.00 (d, 1H, J=6.0 Hz), 6.09 (d, 1H, J=6.0 Hz), 7.10 (s, 1H), 7.31-7.42 (m, 7H), 8.43 (d, 1H, J=2.4 Hz), 8.67 (d, 1H, J=2.4 Hz); MS (ES): 357.4/359.4 (M/M+2).

reactant | (3-Benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methanol 2,2,6,6-Tetramethylpiperidine | 1775 μl, 1.2 eq. | CC1(NC(CCC1)(C)C)C.C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(O)C1=NC=CN=C1Cl
reactant | n-BuLi | 2.5 M, 4.2 ml, 1.2 eq. | [Li]CCCC
reactant | chloropyrazine | 8.733 mmol, 780 μl | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 3-benzyloxy-4-methoxybenzaldehyde | 2328 mg, 1.1 eq. | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | HCl | 1 N, 15 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (3-benzyloxy-4-methoxyphenyl)-(3-chloropyrazin-2-yl)-methanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C(O)C1=NC=CN=C1Cl | C19H17ClN2O3
